US06919178B2
Synthesis of 2-(2-Acetylsulfanyl-acetylamino)-succinic acid 4-tert-butyl ester (compound 2, FIG. 4)
Acetylsulfanyl-acetic acid pentafluorophenyl ester (1.6 g, 5.3 mmol) and H-Asp(OtBu)—OH (1 g, 5.3 mmol) were mixed in 20 ml of dry dichloromethane (DCM). Then 1.6 ml of triethylamine (11.5 mmol) was added, and the reaction was allowed to proceed at ambient temperature for 3.5 hours. The organic layer was then extracted with 3×15 ml of 1 M sodium carbonate, the combined aqueous fractions were acidified with 100 ml of 1 M sodium hydrogensulfate and extracted with 3×30 ml ethyl acetate. The combined organic fractions were then rinsed with 30 ml of 1 M sodium hydrogensulfate, 30 ml of 5 M NaCl, dried over sodium sulfate, filtered, and evaporated under reduced pressure to yield 1.97 g of a nearly colorless syrup which was used without further purification. MW=305 (found 306, M+1).

reactant | Acetylsulfanyl-acetic acid pentafluorophenyl ester | 5.3 mmol, 1.6 g | FC1=C(C(=C(C(=C1OC(CSC(C)=O)=O)F)F)F)F | C10H5F5O3S
reactant | H-Asp(OtBu)—OH | 5.3 mmol, 1 g | N[C@@H](CC(OC(C)(C)C)=O)C(=O)O | C8H15NO4
reactant | triethylamine | 11.5 mmol, 1.6 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(2-Acetylsulfanyl-acetylamino)-succinic acid 4-tert-butyl ester | C(C)(C)(C)OC(CC(C(=O)O)NC(CSC(C)=O)=O)=O | C12H19NO6S
